US06835749B2
N-cyclopropylmethoxy-2,3,4-trifluoro-benzenesulfonamide.
To a stirring suspension comprised of O-cyclopropylmethyl-hydroxylamine hydrochloride (5.40 g, 0.0437 mol) in dichloromethane (20 ml) at ambient temperature under a nitrogen atmosphere was added diisopropylethylamine (10.8 ml, 0.062 mol). A solution comprised of 2,3,4-trifluorobenzenesulfonyl chloride (Oakwood Products, Inc., 1.00 g, 4.34×10−3 mol) in dichloromethane (120 ml) was added dropwise to the reaction vessel containing the stirring suspension over a 12 minute period. The reaction mixture was stirred for another 12 minutes and was quenched with 10% aqueous hydrochloric acid (140 ml). The biphasic mixture was stirred vigorously for 16 hours. The layers were separated and the organic phase was dried (MgSO4) and concentrated to 6 ml volume. The concentrated solution was administered to a flash silica column (Biotage, 90 g of silica gel). Elution with dichloromethane afforded 0.8283 g of a white amorphous solid; 68% yield; 1H-NMR (400 MHz; CDCl3 signal offset to δ 7.03; values reported are uncorrected) δ 7.50 (m,1H), 7.10 (s,1H), 6.95 (m,1H), 3.59 (d, 2H, J═7.2 Hz), 0.80 (m, 1H), 0.31 (m, 2H), 0.02 (m, 2H); 19F-NMR (376 MHz; CDCl3) δ−122.65 (m, 1F), −129.37 (m, 1F), −156.20 (m, 1F); MS (APCl−) 280 (M−1, 100), 210 (55), 195 (45).

reactant | O-cyclopropylmethyl-hydroxylamine hydrochloride | 0.0437 mol, 5.40 g | Cl.C1(CC1)CON
reactant | diisopropylethylamine | 0.062 mol, 10.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,3,4-trifluorobenzenesulfonyl chloride | 4.34×10−3 mol, 1.00 g | FC1=C(C=CC(=C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | N-cyclopropylmethoxy-2,3,4-trifluoro-benzenesulfonamide | 0.8283 g, 68% yield | C1(CC1)CONS(=O)(=O)C1=C(C(=C(C=C1)F)F)F | C10H10F3NO3S
